US07960397B2
6-(4-hydroxy-3-methylbutylamino)-9-(tetrahydropyran-2-yl)purine.
A mixture of 10 mmol (2387 mg) 6-chloro-9-(tetrahydropyran-2-yl)purine (prepared from 10 mmol (1546 mg) of 6-chloropurine), 12 mmol (2318 mg) 4-hydroxy-3-methylbutylamine oxalate, and 5 mL of triethylamine was refluxed in n-propanol for 3 hours and subsequently 24 hrs at laboratory temperature. After removal of the n-propanol by vacuum evaporation, the resulting material was treated with water and partitioned into ethyl acetate. The ethyl acetate phase was evaporated and the residuum subsequently washed with 30 ml of hexane. The solid residue was filtered off and the crude product crystallized from methanol. Yield 75%, white solid. TLC (CHCl3:methanol (4:1) (v:v): single spot; HPLC: purity >98%. 1H-NMR (400 MHz, DMSO): 0.88d (3H, J=6.6 Hz); 1.34m (1H); 1.56m (3H); 1.70m (1H); 1.71m (1H); 1.93m (2H); 1.94m (1H); 2.26m (1H); 3.25m (1H); 3.52bs (2H); 3.67m (1H); 4.0d (1H, J=11.3 Hz); 4.42t (1H, J=5.1 Hz); 5.61d (1H, J=10.6 Hz); 7.70bs (1H); 8.20s (1H); 8.30s (1H). MS (ES): [M+H]+=306 (100).

reactant | 6-chloro-9-(tetrahydropyran-2-yl)purine | 10 mmol, 2387 mg | ClC1=C2N=CN(C2=NC=N1)C1OCCCC1 | C10H11ClN4O
reactant | 6-chloropurine | 1546 mg | ClC1=C2NC=NC2=NC=N1 | C5H3ClN4
reactant | 4-hydroxy-3-methylbutylamine oxalate | 12 mmol, 2318 mg | C(C(=O)O)(=O)O.OCC(CCN)C
reactant | triethylamine | 5 mL | C(C)N(CC)CC | C6H15N
solvent | n-propanol | C(CC)O | C3H8O
product | 6-(4-hydroxy-3-methylbutylamino)-9-(tetrahydropyran-2-yl)purine | Yield 75% | OCC(CCNC1=C2N=CN(C2=NC=N1)C1OCCCC1)C | C15H23N5O2
